US07094779B2
A mixture of [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methyl 2-tetrahydropyranyl ether (0.63 g) with pyridinium p-toluenesulfonate (10 mol %) in methanol was heated under reflux for 24 h. After cooling to room temperature the solvent was removed in vacuo and the residue purified by flash chromatography (SiO2, CH2Cl2/MeOH/NH4OH 92/7.5/0.5) to afford [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methanol (95%). Rf 0.17 (CH2Cl2/MeOH/NH4OH 92/7.5/0.5).

reactant | [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methyl 2-tetrahydropyranyl ether | 0.63 g | O1C(CCCC1)OCC1=NOC(C1)CN1CCOCC1 | C14H24N2O4
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | CO | CH4O
product | [5-((morpholin-4-yl)methyl)-4,5-dihydro-isoxazol-3-yl]methanol | 95% | N1(CCOCC1)CC1CC(=NO1)CO | C9H16N2O3
